US09056859B2
Step C: [3-fluoro-4-(1H-tetrazol-1-yl)phenyl]acetic acid
A solution of (4-amino-3-fluorophenyl)acetic acid (450 mg, 2.66 mmol) and triethyl orthoformate (1.18 g, 7.98 mmol) in HOAc (10 mL) was added sodium azide (208 mg, 3.19 mmol), and the mixture was heated to 100° C. for 3 hours. After the reaction was completed, the reaction mixture was cooled to ambient temperature. The solvent was removed under vacuum. The residue was dissolved in EtOAc, washed with water, dried over anhydrous sodium sulfate, and concentrated. The residue was directly used in next step.

reactant | (4-amino-3-fluorophenyl)acetic acid | 2.66 mmol, 450 mg | NC1=C(C=C(C=C1)CC(=O)O)F | C8H8FNO2
reactant | triethyl orthoformate | 7.98 mmol, 1.18 g | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium azide | 3.19 mmol, 208 mg | [N-]=[N+]=[N-].[Na+]
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
product | [3-fluoro-4-(1H-tetrazol-1-yl)phenyl]acetic acid | FC=1C=C(C=CC1N1N=NN=C1)CC(=O)O | C9H7FN4O2
